* Physical-Model Candidate V5 Stage-2-Only Exact-Waveform Replay Deck - LOADED arm (PROVISIONAL)
* Replays the EXPERIMENT stage-1 waveform pair v(div2_p_1)/v(div2_n_1) from raw dd0f874ee53e1fff...
* PROVISIONAL_DIAGNOSTIC_CONDITION: no external load, no reset, no .ic, no .nodeset
* tran 2p 4.0n stop = 4.0 ns, identical to the matched pair runtime

* Exact PDK Corner Library Models (Lineage from tb_chunk0_27c.cir lines 2..7)
.lib $PDK_ROOT/libs.tech/ngspice/models/cornerHBT.lib hbt_typ
.lib $PDK_ROOT/libs.tech/ngspice/models/cornerRES.lib res_typ
.lib $PDK_ROOT/libs.tech/ngspice/models/cornerCAP.lib cap_typ
.lib $PDK_ROOT/libs.tech/ngspice/models/cornerMOShv.lib mos_tt
.lib $PDK_ROOT/libs.tech/ngspice/models/cornerMOSlv.lib mos_tt
.lib $PDK_ROOT/libs.tech/ngspice/models/cornerDIO.lib dio_tt

* Include Standalone CML Divide-by-2 Candidate V5 Netlist Copy (byte-identical)
.include p1_cml_div2_front_integrated_sinks.spice

* Stage-2 only: one byte-identical frozen V5 stage (XSTAGE2 line identical to experiment)
XSTAGE2 DIV4_P DIV4_N DIV2_P_1 DIV2_N_1 VCC_HBT VSS p1_cml_div2_front

* Ideal replay voltage sources (ZERO source impedance) driving stage-2 clock ports
VREPLAY_P DIV2_P_1 0 PWL FILE=replay_loaded_div2_p_1.pwl
VREPLAY_N DIV2_N_1 0 PWL FILE=replay_loaded_div2_n_1.pwl

* Supply Stimulus (Copied from tb_full_array_code0_modelvalid_2x8_900ua.cir lines 83, 85)
V_VCC_HBT VCC_HBT 0 DC 2.500
V_VSS VSS 0 DC 0.000

* No external load sources, no reset, no .ic, no .nodeset (PROVISIONAL_DIAGNOSTIC_CONDITION)

.options savecurrents

.control
  pre_osdi $PDK_ROOT/libs.tech/ngspice/osdi/psp103.osdi
  pre_osdi $PDK_ROOT/libs.tech/ngspice/osdi/psp103_nqs.osdi
  save all
  tran 2p 4.0n
  write raw_tb_p1_cml_div2_front_loaded_replay_tran_v1.raw all
  quit
.endc

.end
