* Physical-Model Transient Testbench Deck for Custom CML Divide-by-2 Candidate V3 (No-Bleed)
* Target Subcircuit: p1_cml_div2_front_nobleed.spice (d5900dae655f376e6c2aeeebe18d7753f3c36c73283ca859586e57f25dcedd52)

* Exact PDK Corner Library Models (Lineage from tb_chunk0_27c.cir lines 2..7)
.lib $PDK_ROOT/libs.tech/ngspice/models/cornerHBT.lib hbt_typ
.lib $PDK_ROOT/libs.tech/ngspice/models/cornerRES.lib res_typ
.lib $PDK_ROOT/libs.tech/ngspice/models/cornerCAP.lib cap_typ
.lib $PDK_ROOT/libs.tech/ngspice/models/cornerMOShv.lib mos_tt
.lib $PDK_ROOT/libs.tech/ngspice/models/cornerMOSlv.lib mos_tt
.lib $PDK_ROOT/libs.tech/ngspice/models/cornerDIO.lib dio_tt

* Include Standalone CML Divide-by-2 Candidate V3 (No-Bleed) Netlist Copy
.include p1_cml_div2_front_nobleed.spice

* Instantiate Custom CML Divide-by-2 Subcircuit Candidate
XDIV2 DIV2_P DIV2_N CLK_P CLK_N VCC_HBT VSS p1_cml_div2_front

* Supply Stimulus (Copied from tb_full_array_code0_modelvalid_2x8_900ua.cir lines 83, 85)
V_VCC_HBT VCC_HBT 0 DC 2.500
V_VSS VSS 0 DC 0.000

* Complementary 5.0 GHz Clock Stimulus with 100ps Initial Static Prephase
* Period T = 200ps, Rise/Fall = 2ps, High/Low Plateau = 96ps, 0V..1.2V
VCLK_P CLK_P 0 PULSE(1.200 0.000 100p 2p 2p 96p 200p)
VCLK_N CLK_N 0 PULSE(0.000 1.200 100p 2p 2p 96p 200p)

* No external DIV2 load, no reset, no .ic, no .nodeset (PROVISIONAL_DIAGNOSTIC_CONDITION)

.options savecurrents

.control
  pre_osdi $PDK_ROOT/libs.tech/ngspice/osdi/psp103.osdi
  pre_osdi $PDK_ROOT/libs.tech/ngspice/osdi/psp103_nqs.osdi
  save all
  tran 2p 2.0n
  write raw_tb_p1_cml_div2_front_tran_nobleed.raw all
  quit
.endc

.end
